US08048901B2
Ethyl 5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
66 mg of ethyl 5-(2-methoxyethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate are dissolved in 2 ml of dry DMF, and 12 mg of 60 percent strength sodium hydride suspension are added. After 30 min at room temperature, 100 mg of ((1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl toluene-4-sulfonate ((1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl toluene-4-sulfonate in 2 ml of DMF are added. The mixture is stirred at 40° C. until the reaction has gone to completion (monitored by LC-MS). After cooling, the mixture is diluted with sat. NaCl solution and ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is purified by flash chromatography on silica gel (n-heptane/ethyl acetate=1:2). This gives ethyl 5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate as a yellowish solid. C33H41N3O7 (591.71), MS (ESI): 592 (M+H+).

reactant | ethyl 5-(2-methoxyethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 66 mg | COCCOC=1C=C2C(=CN1)NC(=C2)C(=O)OCC | C13H16N2O4
reactant | sodium hydride | [H-].[Na+]
reactant | (1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)C | C27H33NO6S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | NaCl | [Na+].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | COCCOC=1C=C2C(=CN1)N(C(=C2)C(=O)OCC)CCOC2CC(CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C | C33H41N3O7
